US05521147
A mixture of 12.1 grams (0.081 mole) of 7-fluoro-2H-1-benzopyran and a catalytic amount of 5% palladium on carbon in about 200 mL of ethanol was shaken in a Parr hydrogenator until the theoretical amount of hydrogen gas was taken up. After this time the reaction mixture was filtered and concentrated under reduced pressure, yielding 10.5 grams of 3,4-dihydro-7-fluoro-2H-1-benzopyran. The NMR spectrum was consistent with the proposed structure.

reactant | 7-fluoro-2H-1-benzopyran | 0.081 mole, 12.1 grams | FC1=CC2=C(C=CCO2)C=C1 | C9H7FO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | about 200 mL | C(C)O | C2H6O
product | 3,4-dihydro-7-fluoro-2H-1-benzopyran | 10.5 grams | FC1=CC2=C(CCCO2)C=C1 | C9H9FO
